US07544704B2
a) 3-(5-Methyl-3-phenyl-isoxazol-4-ylethynyl)-benzoic acid
3-(5-Methyl-3-phenyl-isoxazol-4-ylethynyl)-benzoic acid methyl ester (600 mg, 1.89 mmol) was treated with ethanol (12 mL) and aqueous sodium hydroxide (1 M, 7.56 mL, 7.56 mmol). The reaction mixture was heated for 1.5 h at 80° C. After concentration and dilution with water (9 mL) the pH was adjusted to 1.5 by adding hydrochloric acid (1 M, 8 mL). The resulting suspension was stirred for 30 min at 0° C. and filtered. Washing with ice-cold water (10 mL) and drying afforded the title compound (546 mg, 95%) as a light brown solid. MS: m/e=304.1 [M+H]+.

reactant | 3-(5-Methyl-3-phenyl-isoxazol-4-ylethynyl)-benzoic acid methyl ester | 1.89 mmol, 600 mg | COC(C1=CC(=CC=C1)C#CC=1C(=NOC1C)C1=CC=CC=C1)=O | C20H15NO3
reactant | sodium hydroxide | 7.56 mmol, 1 M, 7.56 mL | [OH-].[Na+]
solvent | ethanol | 12 mL | C(C)O | C2H6O
product | 3-(5-Methyl-3-phenyl-isoxazol-4-ylethynyl)-benzoic acid | 546 mg, 95% | CC1=C(C(=NO1)C1=CC=CC=C1)C#CC=1C=C(C(=O)O)C=CC1 | C19H13NO3
